US07071182B2
2-(4-benzyloxy-phenyl)-N-[1-(2-dimethylamino-ethyl)-1H-indazol-6-yl]-acetamide
A mixture of 1-(2-dimethylamino-ethyl)-1H-indazol-6-ylamine (484 mg, 2 mmol), 4-benzyloxy-phenylacetic acid (200 mg, 2 mmol), ethyldimethylpropylcarbodiimide hydrochloride (460 mg, 2.4 mmol), N-hydroxybenzotriazole (324 mg, 2.4 mmol), and N-methyl morpholine (513 mg, 4.8 mmol) in DMF (15 mL) was stirred at room temperature for 6 hours and concentrated under reduced pressure The residue was purified by flash chromatography (Silica gel, ethyl acetate/triethylamine, 30/1) to provide the title compound as a pale yellow solid (95%). 1H NMR (300 MHz, DMSO-d6) ppm 2.15 (s, 6H), 2.66 (t, J=6.44, 2H), 3.60 (s, 2H), 4.35 (t, J=6.44, 2H), 5.09 (s, 2H), 6.98 (d, J=8.82, 2H), 7.14 (m, 1H), 7.25–7.45 (m, 6H), 7.65 (m, 1H), 7.94 (m, 1H), 7.94 (s, 1H), 7.95 (s, 1H), 8.12 (s, 1H); MS (DCI/NH3) m/z 429 [M+H]+.

reactant | 1-(2-dimethylamino-ethyl)-1H-indazol-6-ylamine | 2 mmol, 484 mg | CN(CCN1N=CC2=CC=C(C=C12)N)C | C11H16N4
reactant | 4-benzyloxy-phenylacetic acid | 2 mmol, 200 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | ethyldimethylpropylcarbodiimide hydrochloride | 2.4 mmol, 460 mg | Cl.C(C)N=C=NC(CC)(C)C
reactant | N-hydroxybenzotriazole | 2.4 mmol, 324 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl morpholine | 4.8 mmol, 513 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(4-benzyloxy-phenyl)-N-[1-(2-dimethylamino-ethyl)-1H-indazol-6-yl]-acetamide | 95% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NC1=CC=C2C=NN(C2=C1)CCN(C)C | C26H28N4O2
